US05223633
(1-Hydroxycyclobutyl)methyl N,N-diisopropylcarbamate
11.148 g (70 mmol) of methyl N,N-diisopropylcarbamate and 12.424 g (105 mmol) of TMEDA in 200 ml of THF are lithiated at -78° C. with 70 mmol of sec. BuLi. After 1 h, 2.453 g (35 mmol) of cyclobutanone are added in portions (about 500 mg every 30 min). The reaction is complete after 3 h (TLC checking) and the reaction mixture is treated in the cold with 100 ml of ether and 120 ml of 2N hydrochloric acid. After warming to room temperature, the phases are separated and the aqueous phase is extracted three times using 50 ml of ether each time. The combined organic phases are then freed from acid with 50 ml of saturated NaHCO3 solution and dried over magnesium sulphate. After the solvent has been stripped off in vacuo, a crude yield of 12.197 g is obtained, chromatographic purification of which on silica gel using ether/petroleum ether (1:1) gives 3.721 g (46.4% of theory) of the title compound as a colorless liquid.

reactant | methyl N,N-diisopropylcarbamate | 70 mmol, 11.148 g | C(C)(C)N(C(OC)=O)C(C)C | C8H17NO2
reactant | TMEDA | 105 mmol, 12.424 g | CN(C)CCN(C)C | C6H16N2
reactant | BuLi | [Li]CCCC
reactant | cyclobutanone | 35 mmol, 2.453 g | C1(CCC1)=O | C4H6O
reactant | hydrochloric acid | 2N, 120 ml | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (1-Hydroxycyclobutyl)methyl N,N-diisopropylcarbamate | C(C)(C)N(C(OCC1(CCC1)O)=O)C(C)C | C12H23NO3
